US09126998B2
rac-3-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(4-fluorophenyl)propanoic acid
2.0 g of rac-3-amino-3-(4-fluorophenyl)propanoic acid (10.92 mmol) and 1.62 g of phthalic anhydride (10.92 mmol) were dissolved in 9 ml of DMF and heated at reflux at 135° C. overnight. The reaction solution was added to about 200 ml of water. The solid formed was stirred at RT for about 30 min and then filtered off, washed with water and dried under high vacuum. This gave 3.43 g of the title compound (86% of theory, purity about 86%).

reactant | rac-3-amino-3-(4-fluorophenyl)propanoic acid | 10.92 mmol, 2.0 g | NC(CC(=O)O)C1=CC=C(C=C1)F | C9H10FNO2
reactant | phthalic anhydride | 10.92 mmol, 1.62 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | water | about 200 ml | O | H2O
solvent | DMF | 9 ml | CN(C)C=O | C3H7NO
product | rac-3-(1,3-Dioxo-1,3-dihydro-2H-isoindol-2-yl)-3-(4-fluorophenyl)propanoic acid | O=C1N(C(C2=CC=CC=C12)=O)C(CC(=O)O)C1=CC=C(C=C1)F | C17H12FNO4
